US06232318B1
To a solution of 1-benzyl-5-bromo-1H-pyrimidine-2,4-dione (1.0 g, 3.6 mmol) in N,N-dimethylformamide (15 mL) was added tetrabutylammonium bromide (46 mg, 0.14 mmol) and sodium hydroxide (160 mg, 3.9 mmol). The suspension was stirred vigorously, heated to 60° C. for 1.5 h and then cooled to ambient temperature. N-tert-butoxycarbonyl-3-bromopropylamine (0.93 g, 3.9 mmol) was added, the reaction was heated to 50° C. for 20 h and then concentrated in vacuo. The residue was taken up in ethyl acetate:water (1:1 100 mL), the layers separated and the aqueous layer extracted with ethyl acetate (3×50 mL). The organic layers were combined and washed with 0.5 M sodium hydroxide (1×50 mL), water (1×50 mL), brine (1×100 mL), dried with magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was purified by pressurized silica gel chromatography (40% ethyl acetate in hexane) to provide 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-bromo-1H-pyrimidine-2,4-dione.

reactant | 1-benzyl-5-bromo-1H-pyrimidine-2,4-dione | 3.6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(NC(C(=C1)Br)=O)=O | C11H9BrN2O2
reactant | sodium hydroxide | 3.9 mmol, 160 mg | [OH-].[Na+]
reactant | N-tert-butoxycarbonyl-3-bromopropylamine | 3.9 mmol, 0.93 g | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.14 mmol, 46 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-bromo-1H-pyrimidine-2,4-dione | C(C)(C)(C)OC(=O)NCCCN1C(N(C=C(C1=O)Br)CC1=CC=CC=C1)=O | C19H24BrN3O4
